US05859007
2-[2,4-Dioxo-5-phenyl-3-(4,5,6,7-tetrahydro-1-benzyl-1H-indazol-3-ylmethyl)-2,3,4,5-tetrahydro-benzo[b][1,4]diazepin-1-yl]-N-isopropyl-N-(4-methoxyphenyl)-acetamide
To a stirring solution of 164 mg (0.36 mmol) of 2-(2,4-Dioxo-5-phenyl-2,3,4,5-tetrahydro-benzo[b][1,4]diazepin-1-yl)-N-isopropyl-N-(4-methoxy-phenyl) acetamide in 5 mL of DMF at 0° C. is added 0.430 mL (0.78 mmol, 1.2 equiv) of a 1.0M solution of NaN(TMS)2 in THF. The resulting solution is stirred 5 min, and a solution of 120 mg (0.39 mmol, 1.1 equiv.) of 3-Bromomethyl-4,5,6,7-tetrahydro-1-benzyl-1H-indazole in 2 mL of DMF is added. The resulting solution is stirred for 3 h at RT then quenched with 5 mL of H2O. The reaction mixture is poured into 50 mL of EtOAc and extracted with H2O (2×50 mL). The organic layer is separated, dried (MgSO4), and the solvents removed in vacuo. Purification by silica gel flash column chromatography using hexane/EtOAc 1/1 as eluent afforded 175 mg of the title compound as a white solid: mp 173°-176° C.; 1H NMR (CDCl3, 400 MHz) δ7.37-6.84 (m, 18H), 5.02 (s, 2H), 4.99 (m, 1H), 4.22 (s, br, 2H), 4.10 (dd, 1H, J=5.3, 8.7), 3.823 (s, 3H), 3.36 (dd, 1H, J=8.6, 15.6), 3.09 (dd, 1H, J=5.3, 15.6), 2.54-2.38 (m, 4H), 1.67 (m, 4H), 1.04 (d, 6H, J=6.6); low resolution MS (FAB)m/e 682 (MH+).

reactant | 2-(2,4-Dioxo-5-phenyl-2,3,4,5-tetrahydro-benzo[b][1,4]diazepin-1-yl)-N-isopropyl-N-(4-methoxy-phenyl) acetamide | 0.36 mmol, 164 mg | O=C1CC(N(C2=C(N1CC(=O)N(C1=CC=C(C=C1)OC)C(C)C)C=CC=C2)C2=CC=CC=C2)=O | C27H27N3O4
reactant | NaN(TMS)2 | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
reactant | 3-Bromomethyl-4,5,6,7-tetrahydro-1-benzyl-1H-indazole | 0.39 mmol, 120 mg, 1.1 equiv. | BrCC1=NN(C=2CCCCC12)CC1=CC=CC=C1 | C15H17BrN2
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | THF | C1CCOC1 | C4H8O
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | 2-[2,4-Dioxo-5-phenyl-3-(4,5,6,7-tetrahydro-1-benzyl-1H-indazol-3-ylmethyl)-2,3,4,5-tetrahydro-benzo[b][1,4]diazepin-1-yl]-N-isopropyl-N-(4-methoxyphenyl)-acetamide | 175 mg | O=C1C(C(N(C2=C(N1CC(=O)N(C1=CC=C(C=C1)OC)C(C)C)C=CC=C2)C2=CC=CC=C2)=O)CC2=NN(C=1CCCCC21)CC2=CC=CC=C2 | C42H43N5O4
